US08044206B2
Ethyl 7-oxoazepane-4-carboxylate was reacted in the presence of lithium aluminum hydride to produce azepan-4-ylmethanol.

reactant | Ethyl 7-oxoazepane-4-carboxylate | O=C1CCC(CCN1)C(=O)OCC | C9H15NO3
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | azepan-4-ylmethanol | N1CCC(CCC1)CO | C7H15NO
